Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None
attach
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 01:00PM BLOOD WBC-12.4* RBC-5.93 Hgb-15.2 Hct-48.0 
MCV-81* MCH-25.6* MCHC-31.7* RDW-21.2* RDWSD-55.6* Plt ___
___ 01:00PM BLOOD Neuts-68.2 Lymphs-15.2* Monos-14.6* 
Eos-0.0* Baso-0.3 NRBC-1.1* Im ___ AbsNeut-8.45* 
AbsLymp-1.88 AbsMono-1.81* AbsEos-0.00* AbsBaso-0.04
___ 07:15PM BLOOD ___ PTT-30.5 ___
___ 07:15PM BLOOD ___
___ 01:00PM BLOOD Glucose-91 UreaN-53* Creat-1.7* Na-131* 
K-6.0* Cl-88* HCO3-33* AnGap-10
___ 07:15PM BLOOD ALT-844* AST-477* LD(LDH)-301* AlkPhos-74 
TotBili-2.3*
___ 01:00PM BLOOD Calcium-9.0 Phos-4.4 Mg-2.2

CARDIAC LABS:
============
___ 01:00PM BLOOD proBNP-3228*
___ 01:00PM BLOOD cTropnT-<0.01
___ 03:27AM BLOOD cTropnT-<0.01
___ 09:45AM BLOOD cTropnT-<0.01 proBNP-1045*

NOTABLE OTHER LABS:
===================
___ 12:44AM BLOOD TSH-7.6*
___ 11:38AM BLOOD Free T4-0.9*
___ 12:44AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 12:44AM BLOOD Smooth-NEGATIVE
___ 12:44AM BLOOD ___ Titer-1:40*
___ 01:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:08AM BLOOD Lipase-34

DISCHARGE LABS:
===============
___ 02:45AM BLOOD WBC-12.0* RBC-5.00 Hgb-12.4* Hct-42.2 
MCV-84 MCH-24.8* MCHC-29.4* RDW-21.4* RDWSD-62.9* Plt ___
___ 02:45AM BLOOD ___ PTT-41.4* ___
___ 02:45AM BLOOD Glucose-156* UreaN-10 Creat-0.7 Na-138 
K-3.8 Cl-85* HCO3-47* AnGap-5*
___ 03:37AM BLOOD ALT-49* AST-22 LD(LDH)-411* AlkPhos-65 
TotBili-0.7
___ 02:45AM BLOOD Calcium-8.6 Phos-3.0 Mg-1.7
___ 05:02AM BLOOD ___ pO2-44* pCO2-94* pH-7.35 
calTCO2-54* Base XS-20
 
Brief Hospital Course:
Transitional Issues: 
[] Patient needs cardiology(___/filling defect in atrium), 
pulmonology - chronic respiratory failure clinic(given lung 
nodule/OSA) and pcp ___. 
[] Will need biopsy of lung mass
[] ___ need cardiac MR versus TEE to evaluate for RA filling
defect (unable to assess of TTE with contrast ___ poor windows)
[] TI: hepatitis B non-immune 
[] TI: Repeat thyroid function tests in ___ weeks with primary
care.
[] Should have 3x/week VBGs to evaluate acid base status. Has 
been retaining CO2 in hospital, but pH has been ok. Last VBG 
(7.35/___).
[] Will need daily I/Os, weights, and volume exam to guide 
diuresis plan. Still appears grossly volume overloaded without 
renal stress yet on Lasix 60mg IV BID.
[] Patient has a tendency to drink A LOT of fluids. Please 
restrict him to 2L per day. 
[] Will need daily INR monitoring and warfarin dose adjustments 
for PE

Discharge weight: 162kg
Discharge Cr: 0.8

#CODE STATUS: Full (confirmed per guardian) 
#EMERGENCY CONTACT: Group home ___ or ___ 

ASSESSMENT/PLAN 
=============== 
___ with h/o schizophrenia, pre-diabetes and GERD presented to
the ED with hypoxia, hypercarbia, and confusion with c/f heart
failure exacerbation found to have RV dysfunction, lung mass, 
PE, and
post-obstructive PNA. 

ACUTE ISSUES 
=============== 
#Acute on chronic hypoxemic hypercarbic respiratory failure 
#PE
#Pneumonia
#Obesity hypoventilation syndrome
Multifactorial given obesity hypoventiliation, also contribution
from PE, PNA seen on CTA, lung mass, and volume overload. Repeat 
BNP
improved s/p diuresis. Trops negative. Remains hypoxemic (high
___ on ___ oxymizer) despite aggressive diuresis, abx, and
anticoagulation, and VBGs have been stable. Had persistent
leukocytosis without fevers while on unasyn for post obstructive
PNA, so broadened to vanc/Zosyn for 7 day course. MRSA swab 
negative on ___ so discontinued vanco. Leukocytosis now 
improved. Patient initially treated with hep gtt, which was 
transitioned to warfarin once confirmed no upcoming procedures. 
Patient was diuresing well with BID doses of Lasix 60mg IV (goal 
net negative 3L) on a low salt diet. Patient took clonidine 
0.2mg qhs to help with claustrophobia while
wearing BiPap. 

# Confusion
# Agitation 
# Schizophrenia
Mental status at presumed baseline, now alert, oriented,
cooperative and appropriate. Back on antipsychotic regimen. 
Patient maintained on olanzapine ___, Depakote 1250mg QHS, 
and clonidine (as above) per psych recs. 

# Transaminitis with synthetic dysfunction: Improved
Most likely etiology was congestive hepatopathy. Given pattern 
of LFTs and severity of right heart failure likely congestive 
hepatopathy. ___ very mildly elevated 1:40, anti-smooth 
negative, non-immune hep b, negative hep c. Patient should be 
vaccinated for hep b. LFTs normalized except elevated LDH, 
despite not appearing to be hemolyzing. 

# Hypothyroidism 
His pattern of mild elevation in TSH with borderline low ft4 can
be seen in subclinical hypothyroidism and nonthyroidal illness,
the latter of which occurs as binding abnormalities result in 
the
appearance of low ft4. His previously in range TSH may support
nonthyroidal illness as more likely cause. Generally, it is
advisable to obtain TSH and ft4 on the same sample. Patient 
should have repeat thyroid function tests in ___ weeks with 
primary care.

# Eye discharge: Improved on erythromycin antibiotic ointment. 

# Anasarca
# ___: Resolved. 
___ resolved with diuresis suggesting cardiorenal syndrome. 
Urine
Na not consistent with intra-renal pathology. Protein/Cr not
consistent with a nephrotic picture.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Divalproex (DELayed Release) 1250 mg PO QHS 
2. OLANZapine 40 mg PO QHS 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation  
2.  CloNIDine 0.2 mg PO QHS  
3.  Furosemide 60 mg IV BID  
4.  GuaiFENesin ___ mL PO BID  
5.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN wheeze/sob  
6.  Multivitamins W/minerals 1 TAB PO DAILY  
7.  ___  MD to order daily dose PO DAILY16  
8.  OLANZapine (Disintegrating Tablet) 5 mg PO BID  
9.  OLANZapine 20 mg PO QHS  
10.  Divalproex (DELayed Release) 1250 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# Acute on chronic hypoxic hypercarbic respiratory failure 
# PE
# Pneumonia
# Obesity hypoventilation syndrome
# Confusion
# Agitation 
# Schizophrenia
# Transaminitis with synthetic dysfunction
# Subclinical hypothyroidism
# ___
# Eye discharge
# Lung mass

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did I come to the hospital?  
-  You came to the hospital because you were more tired, 
confused, and your oxygen saturation was very low. 

What happened while I was in the hospital?  
-  You had imaging of your lungs.
-  We gave you a medication to make you urinate and removed a 
lot of extra fluid from your body. You were put on a breathing 
machine (BiPAP) at night.
-  You were also treated with antibitoics to treat a pneumonia.
-  We found a blood clot in the blood vessels going to your 
lungs and started you on a blood thinner.
- You were found to have a mass in your lungs and heart that 
will require further workup as an outpatient 

What should I do once I leave the hospital?  
-  Please continue to try to not drink too much fluids! 
-  Eat a low sodium diet. 
-  Take your medications as prescribed and follow up with your 
doctor appointments as listed below.

We wish you the best!  
Your ___ Care Team  
 
Followup Instructions:
___